Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
ercp
The scout film was normal.  
•The major papilla was bulging and impacted with stone. 
•The bile duct was successfully cannulated using a clevercut 
sphincterotome preloaded with a 0.025in guidewire.  
•Contrast was injected and there was brisk flow through the 
ducts.  
•Contrast extended to the entire biliary tree.  
•Contrast injection revealed no filling defects in the biliary 
tree.  
•A biliary sphincterotomy was successfully performed with the 
sphincterotome.  
•There was no post-sphincterotomy bleeding.  
•The sphincterotome was exchanged for a balloon.  
•The biliary tree was swept with a 9-12mm balloon starting at 
the bifurcation.  
•One stone/small stone fragments/debris and copious amount of 
sludge were successfully removed.  
•The CBD and CHD were swept repeatedly until no further stone 
and sludge were seen.  
•The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD.  
•Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically.  
•I supervised the acquisition and interpretation of the 
fluoroscopic images.  
•The quality of the fluoroscopic images was good.  
•Otherwise normal ercp to third part of the duodenum
 

Recommendations: NPO overnight with aggressive IV hydration with 
LR at 200 cc/hr
If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated
Recommend surgical evaluation for possible cholecystectomy.
If any abdominal pain, fever, jaundice, gastrointestinal 
bleeding please call Advanced Endoscopy Fellow on call 
___ 

 
History of Present Illness:
___ with past h/o HTN (untreated), fatty liver disease now
hospitalized with RUQ pain for 24hrs, elevated bili and new
intrahepatic ductal dilatation on ultrasound.  He has had
episodes of abdominal pain leading to ED presentation and
discharge home in early ___ after unrevealing ultrasound and
a hospitalization in mid ___ for 3days with negative
ultrasound and MRCP and improvement in LFTs.  Since then he has
been seen by hepatology and had EUS without signs of biliary
stones or strictures as well as liver biopsy.  Since last
hospitalization he did not experience abdominal pain in ___
until this past ___ when he had gradual onset pinching like
pain in the RUQ.  This pain increased and became stronger,
radiating around the R side of the flank and under the ribs. 
Nothing made it better and taking a deep breath made it worth. 
It is moderate to severe in intensity.  

ED course reviewed and notable for above findings in first
sentence and ACS consult who said no need for surgical
intervention.  He was empirically given cipro/flagyl for 
possible
biliary infection.  Vitals notable for lack of fever and
hypertension which improved with treatment of pain.

PMH:
HTN, no longer on meds
Fatty liver disease
HOspitalization at ___ ___ see discharge summary
RUQ pain

SH: ___, works in ___, no alcohol or tobacco currently

FH:
negative for liver disease, liver or pancreas cancer

 
Physical Exam:
97.5 159/107 63 16 98RA
non toxic
slight scleral icterus
no jaundice
tongue smooth and midline
ctab
rrr
some RUQ tenderness to palpation, no palpable organomegaly
no peripheral edema or rashes
calm and cooperative
moves all extremities equally

discharge
98 138/95 80
non toxic
not jaundiced
ctab
no ruq tenderness or focal abdominal pain
no peripheral edema

 
 
Pertinent Results:
___ 06:13AM BLOOD WBC-8.5# RBC-5.37 Hgb-16.4 Hct-46.1 
MCV-86 MCH-30.5 MCHC-35.6 RDW-12.7 RDWSD-38.8 Plt ___
___ 06:13AM BLOOD Glucose-72 UreaN-9 Creat-0.9 Na-143 K-3.9 
Cl-102 HCO3-25 AnGap-16
___ 06:00AM BLOOD ALT-210* AST-207* AlkPhos-82 TotBili-3.9*
___ 06:34AM BLOOD ALT-442* AST-308* AlkPhos-119 
TotBili-5.8*
___ 06:35AM BLOOD ALT-374* AST-181* AlkPhos-125 
TotBili-6.8*
___ 06:13AM BLOOD ALT-252* AST-94* AlkPhos-102 TotBili-4.1*

RUQ u/s
  
  
1. No signs of cholelithiasis or cholecystitis. 
2. Mild intrahepatic biliary ductal dilation seen in the left 
hepatic lobe is 
new since the prior MRCP.  Please correlate clinically and may 
consider 
nonemergent MRCP for further evaluation. 
3. Echogenic liver consistent with steatosis. Other forms of 
liver disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded 
on the basis of this examination. 
  

 
Brief Hospital Course:
___ with past h/o HTN (untreated), fatty liver disease now
hospitalized with RUQ pain for 24hrs, elevated bili and new
intrahepatic ductal dilatation on ultrasound.  This is his third
presentation to ___ for similar RUQ pain including
hospitalization in ___ for similar complaint.  

This admission his LFTs and bili rose at first and then fell to 
t bili 4 post ERCP.  He tolerated diet before discharge.  ERCP 
rather than MRCP performed this admission with notable findings 
of stone fragments and sludge extracted with balloon and
sphinceterotomy performed.

ACS consulted re: CCY which is not urgent and he will see ACS in 
clinic on ___.

No signs of cholangitis, off antibiotics

He may benefit from long term management of hypertension with
medication but for now will monitor clinically and can consider
addition of anti-HTN agent as well as lifestyle modification as 
an outpatient.  He will f/u with PCP.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
choledocolthiasis with obstruction
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
you were hospitalized with abdominal pain and had ercp with 
removal of sludge and small fragment of stone from the bile duct 
draining the liver.  we advise that you follow up with  the 
surgeon to discuss gallbladder removal surgery

 
Followup Instructions:
___